US07279499B2
D. Preparation of (±)-2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-2,5-bis-methoxymethoxy-phenyl]-cyclopentanecarboxylic acid methoxy-methyl-amide
Use conditions analogous to those described in Step D of Examples 1A and 1B to react (±)-2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-2,5-bis-methoxymethoxy-phenyl]-cyclopentanecarboxylic acid methyl ester (0.605 g, 1.29 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.189 g, 1.94 mmol) in the presence of isopropylmagnesium chloride (2.13 mL, 4.26 mmol) to afford the subtitled product (0.622 g, 97%) as an oil that may be used without further purification.

reactant | (±)-2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-2,5-bis-methoxymethoxy-phenyl]-cyclopentanecarboxylic acid methyl ester | 1.29 mmol, 0.605 g | COC(=O)C1C(CCC1)C1=C(C(=CC(=C1)OCOC)C(O[SiH2]C(C)(C)C)(C)C)OCOC | C24H40O7Si
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.94 mmol, 0.189 g | Cl.CNOC
reactant | isopropylmagnesium chloride | 4.26 mmol, 2.13 mL | C(C)(C)[Mg]Cl
product | (±)-2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-2,5-bis-methoxymethoxy-phenyl]-cyclopentanecarboxylic acid methoxy-methyl-amide | 0.622 g, 97% | CON(C(=O)C1C(CCC1)C1=C(C(=CC(=C1)OCOC)C(O[SiH2]C(C)(C)C)(C)C)OCOC)C | C25H43NO7Si
